US09212187B2
Synthesis of 1-Methyl-6-{3-[(2-methylamino-ethyl)-pyridin-4-ylmethyl-amino]-propoxy}-1H-quinolin-2-one trihydrochloride
A 4N-hydrogen chloride ethyl acetate solution(4.2 ml) was added to an ethyl acetate solution (30 ml) of methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester (1.0 g), and the mixture was stirred for 30 minutes at room temperature. The reaction mixture was condensed under reduced pressure to give the title compound(1.0 g) as a white powder.

reactant | hydrogen chloride ethyl acetate | 4.2 ml | C(C)OC(C)=O.Cl
reactant | methyl-(2-{[3-(1-methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(N(CCN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)C)=O | C27H36N4O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-6-{3-[(2-methylamino-ethyl)-pyridin-4-ylmethyl-amino]-propoxy}-1H-quinolin-2-one trihydrochloride | 1.0 g | Cl.Cl.Cl.CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)CCNC)=O | InChI=1S/C22H28N4O2.3ClH/c1-23-12-14-26(17-18-8-10-24-11-9-18)13-3-15-28-20-5-6-21-19(16-20)4-7-22(27)25(21)2;;;/h4-11,16,23H,3,12-15,17H2,1-2H3;3*1H
